US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3-(trifluoromethyl)-benzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 3-trifluoromethylbenzenesulfonylchloride (111 mg, 0.455 mmol) to give before Boc-deprotection 145 mg of a purple solid. M+1 493.1 Calcd 493.11.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 3-trifluoromethylbenzenesulfonylchloride | 0.455 mmol, 111 mg | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3-(trifluoromethyl)-benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)NS(=O)(=O)C | InChI=1S/C19H23F3N4O4S2.ClH/c1-31(27,28)24-18-13-15(26-10-3-8-23-9-11-26)6-7-17(18)25-32(29,30)16-5-2-4-14(12-16)19(20,21)22;/h2,4-7,12-13,23-25H,3,8-11H2,1H3;1H
